US06005000
The 4-hydroxy-5-methyl-5-phenyl-3-phenylmethoxy-2-(5H)-furanone (1.2 g) was subjected to hydrogenation over 100 mg of 5% Pd/BaSO4 in 100 mL of MeOH at room temperature and under 30 psi H2. The reaction was monitored periodically by TLC analysis. The suspension was filtered through two #1 filter papers, concentrated to a white solid and recrystallized from MeOH/H2O to give 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone as a white crystalline material: mp 173-175° C. dec. 1H NMR (acetone-d6) δ 7.53-7.36 (m, 5H), 1.84 (s, 3H). Anal Calcd for C11H10O4 +0.125 H2O: C, 63.38; H, 4.96. Found: C, 63.30; H, 4.96.

reactant | 4-hydroxy-5-methyl-5-phenyl-3-phenylmethoxy-2-(5H)-furanone | 1.2 g | OC1=C(C(OC1(C1=CC=CC=C1)C)=O)OCC1=CC=CC=C1 | C18H16O4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd BaSO4 | 100 mg | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
